US05859007
D. 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(3,4-methylenedioxy-phenyl) acetamide
31 mg of Sodium Hydride (60% in oil) is added to a solution of 2-(-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(3,4-methylenedioxy-phenyl) acetamide (300 mg. 0.636 mmol) in DMF (10 mL ) and the resultant mixture stirred at RT for 0.5 h prior to the addition of 3-bromomethyl-1-tert-butoxycarbonyl-1H-indazole (197 mg, 0.636 mmol) to the reaction mixture. After 22 h, 10 mL of water is added and the resultant mixture extracted into ethyl acetate (3×10 mL). The combined organics were washed with water (3×10 mL), brine (10 mL), dried (MgSO4), and concentrated in vacuo to afford the crude product (460 mg) as a brown foam. Purification by silica gel flash column chromatography using 2% methanol in methylene chloride as eluent gave the desired product (123 mg) as a beige solid: 1H NMR (300 MHz, CDCl3) δ8.10 (d, 1H, J=8.6), 7.91 (d, 1H, J=8.0), 6.8-7.6 (m, 14H), 6.09 (s, 2H), 5.01 (m, 1H, J=6.9), 4.36 (m, 3H), 3.90 (dd, 1H, J=16.4, 8.8), 3.58 (m, 1H), 1.67 (s, 9H), 1.08 (m, 6H).

reactant | Sodium Hydride | 31 mg | [H-].[Na+]
reactant | 2-(-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(3,4-methylenedioxy-phenyl) acetamide | 0.636 mmol, 300 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC3=C(C=C1)OCO3)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H25N3O5
reactant | 3-bromomethyl-1-tert-butoxycarbonyl-1H-indazole | 0.636 mmol, 197 mg | BrCC1=NN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C13H15BrN2O2
reactant | water | 10 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(3,4-methylenedioxy-phenyl) acetamide | 123 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC3=C(C=C1)OCO3)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C40H39N5O7
